US04824834
To a solution of 2-bromo-4-fluorotoluene (45 g) in dry diethyl ether (500 ml) is added magnesium (for Grignard reagent, 7 g), and the mixture is refluxed with stirring. To the reaction mixture is added methyl iodide (1 ml), by which the reaction initiates vigorously, and then the mixture is stirred for 30 minutes after taking off the heating bath. Thereafter, the reaction becomes mild, and then the reaction mixture is refluxed for 30 minutes. After allowing to cool, dimethyl disulfide (24 ml) is added to the reaction mixture, and the mixture is refluxed for 3 hours. After allowing to cool, water and 10% hydrochloric acid are added to the reaction mixture, and the mixture is extracted with diethyl ether. The extract is washed with water (500 ml×3), dried over anhydrous sodium sulfate and then the solvent is distilled off. The resulting residue is distilled under reduced pressure to give 4-fluoro-2-methylthiotoluene (30 g).

reactant | 2-bromo-4-fluorotoluene | 45 g | BrC1=C(C=CC(=C1)F)C | C7H6BrF
reactant | magnesium | 7 g | [Mg] | Mg
reactant | methyl iodide | 1 ml | CI | CH3I
reactant | dimethyl disulfide | 24 ml | CSSC | C2H6S2
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 4-fluoro-2-methylthiotoluene | 30 g | FC1=CC(=C(C=C1)C)SC | C8H9FS
